US09085555B2
D. (3-Carbamoyl-5-methoxy-indol-1-yl)-acetic acid
To a solution of (3-carbamoyl-5-methoxy-indol-1-yl)-acetic acid tert-butyl ester (45.0 mg, 0.118 mmol) in CH2Cl2 (2.0 mL) was added TFA (1.0 mL) at RT, and stirring was continued for 3 h. Methanol was then added to the reaction mixture and volatiles were removed in vacuo. The residue was taken up in methanol and concentrated again under reduced pressure to afford the title compound as a beige solid: MS (LC/MS): 249 [M+H]+, 277 [M+Na]+; tR (HPLC conditions c): 2.93 min. The material thus obtained was used in the next reaction step without further purification.

reactant | (3-carbamoyl-5-methoxy-indol-1-yl)-acetic acid tert-butyl ester | 0.118 mmol, 45.0 mg | C(C)(C)(C)OC(CN1C=C(C2=CC(=CC=C12)OC)C(N)=O)=O | C16H20N2O4
reactant | TFA | 1.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | Methanol | CO | CH4O
solvent | CH2Cl2 | 2.0 mL | C(Cl)Cl | CH2Cl2
product | (3-Carbamoyl-5-methoxy-indol-1-yl)-acetic acid | C(N)(=O)C1=CN(C2=CC=C(C=C12)OC)CC(=O)O | C12H12N2O4
